US04455311
A solution of 19.5 g of 2-amino-6-dimethylamino-3,4-dihydro-3-(p-methoxybenzyl)-quinazoline in 300 ml of dimethylformamide was treated with 90 g of potassium carbonate and 12.9 g of ethyl iodoacetate and the mixture was stirred at room temperature for 20 hours and then at 85° for 5 hours. The mixture was then cooled, poured into ice/water and the crude product was filtered. Pure 7-dimethylamino-4,5-dihydro-4-(p-methoxybenzyl)-imidazo[1,2-a]quinazolin-2(1H)-one of melting point 196°-200° was obtained by recrystallization from methanol.

reactant | 2-amino-6-dimethylamino-3,4-dihydro-3-(p-methoxybenzyl)-quinazoline | 19.5 g | NC1=NC2=CC=C(C=C2CN1CC1=CC=C(C=C1)OC)N(C)C | C18H22N4O
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodoacetate | 12.9 g | ICC(=O)OCC | C4H7IO2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 7-dimethylamino-4,5-dihydro-4-(p-methoxybenzyl)-imidazo[1,2-a]quinazolin-2(1H)-one | CN(C=1C=C2CN(C=3N(C2=CC1)CC(N3)=O)CC3=CC=C(C=C3)OC)C | C20H22N4O2
